US09035073B2
Tert-butyl 3-(3,4-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate
Preparation according to Preparation 2. Tert-butyl-3-(3,4-difluorophenyl)-3-hydroxypyrrolidin-1-carboxylate (3.3 g, 11 mmol) in dry tetrahydrofuran (50 mL), sodium hydride (60% dispersion in mineral oil, 0.66 g, 16.5 mmol), iodomethane (1.37 mL, 22 mmol). Purification by flash column chromatography on silica gel (ethyl acetate/isooctane, 1:9 to 1:1) gave the title compound (2.65 g, 77%). MS m/z (rel. intensity, 70 eV) 257 (17), 240 (14), 171 (13), 127 (15), 57 (bp).

reactant | Tert-butyl-3-(3,4-difluorophenyl)-3-hydroxypyrrolidin-1-carboxylate | 11 mmol, 3.3 g | C(C)(C)(C)OC(=O)N1CC(CC1)(O)C1=CC(=C(C=C1)F)F | C15H19F2NO3
reactant | sodium hydride | 16.5 mmol, 0.66 g | [H-].[Na+]
reactant | iodomethane | 22 mmol, 1.37 mL | IC | CH3I
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Tert-butyl 3-(3,4-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate | 2.65 g, 77% | FC=1C=C(C=CC1F)C1(CN(CC1)C(=O)OC(C)(C)C)OC | C16H21F2NO3
